US07135479B2
To 6-fluoroindole (1.35 g, 10.0 mmol) in N,N-dimethylformamide (100 mL) was added a 60% mineral oil dispersion of sodium hydride (0.44 g, 11 mmol). The mixture was stirred at room temperature under nitrogen for 30 min, then 4-tosyloxymethyl-N-carbobenzyloxypiperidine (4.0 g, 10 mmol) added and the mixture heated at 70° C. under nitrogen for 16 hours. The solvent was removed in vacuum and replaced with methylene chloride (350 mL). The solution was washed with 250 mL portions of 2N aqueous hydrochloric acid, saturated aqueous sodium bicarbonate and saturated brine and dried over sodium sulfate. Filtration, concentration in vacuum and column chromatography on silica gel with methylene chloride as eluent gave 3.7 g of 4-(6-fluoro-indol-1-ylmethyl)-piperidine-1-carboxylic acid benzyl ester. This material was dissolved in ethyl acetate (100 mL), 10% Pd on carbon (0.50 g) and cyclohexene (3.2 g, 40 mmol) added, and the mixture refluxed under nitrogen for 2 hours. Filtration through celite, followed by concentration in vacuum gave 2.1 g of the title compound as a white solid. 1H-NMR (CDCl3): doublet of doublets 7.5 δ (1 H); doublet 7.0 δ (1 H); doublet of doublets 6.95 δ (1 H); triplet of doublets 6.82 δ (1 H); doublet 6.42 δ (1 H); doublet 3.9 δ (2 H); doublet 3.02 δ (1 H); triplet 2.5 δ (2 H); doublet 1.5 δ (2 H); multiplet 1.2 δ (2 H).

reactant | 6-fluoroindole | 10.0 mmol, 1.35 g | FC1=CC=C2C=CNC2=C1 | C8H6FN
reactant | sodium hydride | 11 mmol, 0.44 g | [H-].[Na+]
reactant | 4-tosyloxymethyl-N-carbobenzyloxypiperidine | 10 mmol, 4.0 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C21H25NO5S
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-(6-fluoro-indol-1-ylmethyl)-piperidine-1-carboxylic acid benzyl ester | 3.7 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CN1C=CC2=CC=C(C=C12)F | C22H23FN2O2
